US06919355B2
e) 2-(4-Benzylpiperidin-1-yl)-N-(5-nitro-2-oxo-2,3-dihydro-benzoxazol-6-yl)-2-oxo-acetamide
To a solution of 3.23 g (16.56 mmol) of 6-amino-5-nitro-3H-benzoxazole-2-one (step a), 2.58 ml (18.5 mmol) of trethylamine and 100 ml of chloroform 5.25 g (19.75 mmol) of (4-benzylpiperidin-1-yl)oxoacetyl chloride in 20 ml of chloroform is added dropwise at 20° C., then the mixture is stirred at room temperature for 2 h. The mixture is washed with water, the organic layer is dried and concentrated. The residue is purified by column chromatography using Kieselgel 60 as adsorbent (Merck) and toluene:methanol=4:1 as eluent to yield 3.3 g (47%) of the title compound. Mp.: foam.

reactant | 6-amino-5-nitro-3H-benzoxazole-2-one | 16.56 mmol, 3.23 g | NC1=CC2=C(NC(O2)=O)C=C1[N+](=O)[O-] | C7H5N3O4
reactant | (4-benzylpiperidin-1-yl)oxoacetyl chloride | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)Cl)=O | C14H16ClNO2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 19.75 mmol, 100 ml, 5.25 g | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Benzylpiperidin-1-yl)-N-(5-nitro-2-oxo-2,3-dihydro-benzoxazol-6-yl)-2-oxo-acetamide | 3.3 g, 47% | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)NC1=CC2=C(NC(O2)=O)C=C1[N+](=O)[O-])=O | C21H20N4O6
